US04440779
Ethyl 5-[o-(chloromethyl)benzoyl]-3-ethoxycarbonyl-4-hydroxy-1-methylpyrrole-2-acetate (525 mg, 1.29 mmol) is suspended in 5 ml dry DMF under nitrogen followed by subsequent addition of sodium hydride (68 mg, 1.42 mmol, 50% dispersion in oil). Gas is evolved and the reaction turns dark brown. The mixture is stirred for one hour, then the solution is poured into water (50 ml). Upon agitation, a solid separates which is filtered and dried. The crude material is recrystallized from ethanol to give 426 mg (90%) of ethyl 5,10-dihydro-3-ethoxycarbonyl-1-methyl-10-oxo-1H-[2]benzoxepino[4,3-b]pyrrole-2-acetate.

reactant | Ethyl 5-[o-(chloromethyl)benzoyl]-3-ethoxycarbonyl-4-hydroxy-1-methylpyrrole-2-acetate | 1.29 mmol, 525 mg | ClCC1=C(C(=O)C2=C(C(=C(N2C)CC(=O)OCC)C(=O)OCC)O)C=CC=C1 | C20H22ClNO6
reactant | sodium hydride | 1.42 mmol, 68 mg | [H-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | ethyl 5,10-dihydro-3-ethoxycarbonyl-1-methyl-10-oxo-1H-[2]benzoxepino[4,3-b]pyrrole-2-acetate | 426 mg, 90% | C(C)OC(=O)C=1C2=C(N(C1CC(=O)OCC)C)C(C1=C(CO2)C=CC=C1)=O | C20H21NO6
